US07645771B2
To a solution of trimethylacetamide (10 mg, 0.1 mmol) in DMF (0.5 mL) was added sodium hydride (60%, 5.2 mg, 0.13 mmol). After stirring for 5 minutes, 4-chlorophenylisothiocyanate (17 mg, 0.1 mmol) was added. The reaction mixture was stirred at 60° C. for one hour before being cooled down to room temperature. To this reaction mixture was then added 2-methyl-1-{8-[2-(4-phenylpiperidin-4-yl)ethyl]-8-azabicyclo[3.2.1]-oct-3-yl}-1H-benzimidazole (35 mg, 0.08 mmol), EDCI (19 mg, 0.1 mmol) and a catalytic amount of DMAP. After stirring at ambient temperature overnight, the reaction was quenched with water and extracted with dichloromethane (4×10 mL). The organic phase was washed with brine and dried over sodium sulfate. The solvent was removed and the residue was purified by flash chromatography on silical gel, eluting with a gradient of 0-15% methanol in ethyl acetate to afford N-[(1E)-[(4-chlorophenyl)amino](4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl) methylidene]-2,2-dimethylpropanamide as amorphous solid (20 mg, 38%). 1H NMR (400 MHz, DMSO-d6) δ 8.9 (s, 1H), 7.46 (d, J=8.8 Hz, 1H), 7.39-7.33 (m, 6H), 7.22-7.19 (m, 1H), 7.13-7.05 (m, 3H), 6.61 (d, J=8.6 Hz, 2H), 4.51-4.47 (m, 1H), 3.80-3.40 (m, 2H), 3.26-3.13 (m, 4H), 2.46 (s, 3H), 2.37-2.30 (m, 2H), 2.14 (br, 2H), 1.85-1.71 (m, 10H), 1.56 (d, J=7.4 Hz, 2H), 0.88 (s, 9H). HRMS m/z (M+H)+ calcd: 665.3735, obsd: 665.3741.

reactant | trimethylacetamide | 0.1 mmol, 10 mg | CC(C(=O)N)(C)C | C5H11NO
reactant | sodium hydride | 0.13 mmol, 5.2 mg | [H-].[Na+]
reactant | 4-chlorophenylisothiocyanate | 0.1 mmol, 17 mg | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
reactant | 2-methyl-1-{8-[2-(4-phenylpiperidin-4-yl)ethyl]-8-azabicyclo[3.2.1]-oct-3-yl}-1H-benzimidazole | 0.08 mmol, 35 mg | CC1=NC2=C(N1C1CC3CCC(C1)N3CCC3(CCNCC3)C3=CC=CC=C3)C=CC=C2 | C28H36N4
reactant | EDCI | 0.1 mmol, 19 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-[(1E)-[(4-chlorophenyl)amino](4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl) methylidene]-2,2-dimethylpropanamide | 20 mg, 38% | ClC1=CC=C(C=C1)N/C(=N\C(C(C)(C)C)=O)/N1CCC(CC1)(C1=CC=CC=C1)CCN1C2CC(CC1CC2)N2C(=NC1=C2C=CC=C1)C | C40H49ClN6O
